US08247401B2
Step A: Methyl 3-bromo-5-isopropenylbenzoate
To a solution of methyl 3-bromo-5-iodobenzoate (2.50 g, 7.33 mmol) in acetonitrile (22.0 mL) and water (7.33 mL) was 2-isopropenyl-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (1.378 mL, 7.33 mmol), palladium(II) acetate (41.0 mg, 0.183 mmol), 3,3′3″-phosphinidynetris(benzenesulfonic acid)trisodium salt (313 mg, 0.550 mmol) and diisopropylamine (2.61 mL, 18.33 mmol) and the mixture was heated to 80° C. After 2.5 h, the reaction was allowed to cool to ambient temperature and saturated aqueous sodium bicarbonate was added. The mixture was extracted with ethyl acetate (3×). The combined organic extracts were washed with brine, dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography (100% hexanes→80% hexanes/ethyl acetate) gave the title compound (1.71 g).

reactant | methyl 3-bromo-5-iodobenzoate | 7.33 mmol, 2.50 g | BrC=1C=C(C(=O)OC)C=C(C1)I | C8H6BrIO2
reactant | 2-isopropenyl-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 7.33 mmol, 1.378 mL | C(=C)(C)B1OC(C(O1)(C)C)(C)C | C9H17BO2
reactant | diisopropylamine | 18.33 mmol, 2.61 mL | C(C)(C)NC(C)C | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 22.0 mL | C(C)#N | C2H3N
solvent | water | 7.33 mL | O | H2O
catalyst | palladium(II) acetate | 0.183 mmol, 41.0 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 3,3′3″-phosphinidynetris(benzenesulfonic acid)trisodium salt | 0.550 mmol, 313 mg | C1=CC(=CC(=C1)S(=O)(=O)[O-])P(C2=CC(=CC=C2)S(=O)(=O)[O-])C3=CC(=CC=C3)S(=O)(=O)[O-].[Na+].[Na+].[Na+]
product | Methyl 3-bromo-5-isopropenylbenzoate | 1.71 g | BrC=1C=C(C(=O)OC)C=C(C1)C(=C)C | C11H11BrO2
